US07709479B1
A mixture of N-benzoyl 2-cyano-4-nitroaniline (3.38 g, 12.6 mmol) and tin (II) chloride (14.3 g, 63.2 mmol) were heated in ethyl acetate (200 ml) at reflux for 2.5 hours under an inert atmosphere. The reaction was allowed to cool to ambient temperature, concentrated aqueous ammonia (20 ml) added and the reaction was then filtered. Evaporation of the organic layer in vacuo yielded N-benzoyl 2-cyano-4-aminoaniline (2.64 g, 88% yield) as a yellow solid:

reactant | N-benzoyl 2-cyano-4-nitroaniline | 12.6 mmol, 3.38 g | C(C1=CC=CC=C1)(=O)NC1=C(C=C(C=C1)[N+](=O)[O-])C#N | C14H9N3O3
reactant | tin (II) chloride | 63.2 mmol, 14.3 g | [Sn](Cl)Cl
reactant | ammonia | 20 ml | N | H3N
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | N-benzoyl 2-cyano-4-aminoaniline | 2.64 g, 88% yield | C(C1=CC=CC=C1)(=O)NC1=C(C=C(C=C1)N)C#N | C14H11N3O
